US09062092B2
Compound 48e. 5-Vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester
A mixture of ethyl 5-(1-(tosyloxy)ethyl)-1,3-dioxane-5-carboxylate (20.7 g, 58 mmol) and DBU (25 mL) was heated at 140° C. for 3 h. After being cooled to rt, the reaction mixture was poured into ether (300 mL), and the organic layer was washed with brine (3×). The ether layer was dried over sodium sulfate, and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with petroleum ether/ether 30:1 to 20:1 to give a crude product, which was distilled under reduced pressure (45-49° C./0.3 mbar) to afford the title compound (3.6 g, 33%) as colorless oil. 1H NMR (400 MHz, CDCl3) δ 1.29 (t, J=11.0 Hz, 3H), 3.70 (d, J=11.6 Hz, 2H), 4.25 (t, J=7.2 Hz, 2H), 4.44 (t, J=11.2 Hz, 2H), 4.71 (d, J=8.0 Hz, 1H), 4.95 (d, J=6.0 Hz, 1H), 5.24 (m, 1H), 5.27 (m, 1H), 5.65 (m, 1H). This 1H spectral data is in good agreement with that reported for the synthesis of the title compound, the which is described in Borremans, F. et al. Bull. Soc. Chim. Belg. 1976, 85, 681-696.

reactant | ethyl 5-(1-(tosyloxy)ethyl)-1,3-dioxane-5-carboxylate | 58 mmol, 20.7 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC(C)C1(COCOC1)C(=O)OCC | C16H22O7S
reactant | DBU | 25 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ether | 300 mL | CCOCC | C4H10O
product | 5-Vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester | 3.6 g, 33% | C(C)OC(=O)C1(COCOC1)C=C | C9H14O4
